US06949542B2
(2-Amino-5-ethoxy-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared from (5-ethoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester (Example A14) (8.65 g, 30.6 mmol) by hydrogenation with 10% Pd/C according to the general procedure J (method a). Obtained as a purple solid (6.45 g).

reactant | (5-ethoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester | 30.6 mmol, 8.65 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC)[N+](=O)[O-])=O | C13H18N2O5
catalyst | Pd/C | [Pd] | Pd
product | (2-Amino-5-ethoxy-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC)N)=O | C13H20N2O3
